US05719152
8) 9-Bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
To a solution of 9-bromo-5-methoxycarbonylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (25.0 g, 0.071 mol) in a mixture of THF (350 mL) and methanol (350 mL) was added aqueous 1N NaOH (440 mL). The mixture was stirred for 2 h at room temperature, concentrated to ca. 500 mL, and acidified by addition of aqueous 1N HCl. The precipitates formed were collected by filtration, washed with distilled water, and dried in vacuo to give 22.9 g of the title compound (95%).

reactant | 9-bromo-5-methoxycarbonylmethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.071 mol, 25.0 g | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)OC | C14H13BrN2O4
reactant | NaOH | 1N, 440 mL | [OH-].[Na+]
solvent | THF | 350 mL | C1CCOC1 | C4H8O
solvent | methanol | 350 mL | CO | CH4O
product | 9-Bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 22.9 g, 95% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)O | C13H11BrN2O4
